US05192738
A solution was prepared by adding 50 ml of methanol and 2.8 ml of triethylamine to 3.17 g of 2,7-diphenyl-4-methylpyrazolo[3, 4-b]pyridine-3,6-dione, and 2.85 g of 1,7-diphenyl-1,7-diaza-1,3,5-heptatriene hydrochloride was added to this solution, followed by the addition of 1.88 ml of anhydrous acetic acid and stirring at room temperature for 1 hour. The precipitate thus formed was filtered and washed with methanol, followed by drying, to obtain 1.9 g of 5-[5-(N-acetyl-anilino)-2, 3-pentadienylidene]-2,7-diphenyl-4-methylpyrazolo[3,4-b]pyridine-3,6-dione. 60 ml of N,N-dimethylformamide, 0.95 g of 2,7-diphenyl-4-methylpyrazolo[3,4-b]pyridine-3,6-dione and 0.42 ml of triethylamine were added to 1.5 g of this product, and the mixture was stirred at 50° C. for two hours. After filtering off a trace amount of the insoluble matter, ethyl acetate in an amount of ten times by volume was added to precipitate crystals while stirring. The obtained crystals were dissolved again in a small amount of N,N-dimethylformamide, and ethyl acetate in an amount of ten times by volume was added to precipitate crystals, followed by filtering and drying the crystals, whereby 1.3 g of Compound 2 were obtained. Golden crystal. Melting point: 300° C. or higher.

reactant | methanol | 50 ml | CO | CH4O
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | 2,7-diphenyl-4-methylpyrazolo[3, 4-b]pyridine-3,6-dione | 3.17 g | C1(=CC=CC=C1)N1NC=2N(C(C=C(C2C1=O)C)=O)C1=CC=CC=C1 | C19H15N3O2
reactant | 1,7-diphenyl-1,7-diaza-1,3,5-heptatriene hydrochloride | 2.85 g | Cl.C1(=CC=CC=C1)N=CC=CC=CNC1=CC=CC=C1
solvent | acetic acid | 1.88 ml | C(C)(=O)O | C2H4O2
product | 5-[5-(N-acetyl-anilino)-2, 3-pentadienylidene]-2,7-diphenyl-4-methylpyrazolo[3,4-b]pyridine-3,6-dione | 1.9 g | C(C)(=O)N(C1=CC=CC=C1)CC=C=CC=C1C(=C2C(N(C1=O)C1=CC=CC=C1)=NN(C2=O)C2=CC=CC=C2)C | C32H26N4O3
